US07399759B2
tert-Butyl ({3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoyl}amino)acetate
3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionic acid (0.20 g, 0.64 mmol) as dissolved in N,N-dimethylformamide (3 ml), and glycine tert-butyl ester (0.11 g, 0.67 mmol), WSC (0.25 g, 1.3 mmol) and HOBt (0.18 g, 1.3 mmol) were added successively thereto. The reaction mixture was stirred at room temperature for 17 hrs, concentrated under reduced pressure and combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel (15 g) column chromatography. The fractions eluted with hexane-ethylacetate (1:1, v/v) were collected and concentrated to give the titled compound (0.27 g, 99%) as white crystals.

reactant | 3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionic acid | 0.64 mmol, 0.20 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCC(=O)O | C16H12N2O3S
reactant | glycine tert-butyl ester | 0.67 mmol, 0.11 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | WSC | 1.3 mmol, 0.25 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.3 mmol, 0.18 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | tert-Butyl ({3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoyl}amino)acetate | 0.27 g, 99% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCC(=O)NCC(=O)OC(C)(C)C | C22H23N3O4S
